US07608629B2
2,4-Difluoro-N-[2-fluoro-3-(1-methyl-piperidin-4-yloxy)phenyl]-benzamide hydrochloride
Heat a mixture of 2-fluoro-3-(1-methyl-piperidin-4-yloxy)-phenylamine (preparation 33, 0.126 g) and 2,4-difluorobenzoyl chloride (0.119 g) in 1,4-dioxane (5 mL) for 2.5 hrs. Cool to room temperature, collect the white crystals and wash with ether to give the free base of title compound (0.164 g). The free base is converted to the mono hydrochloric acid salt using a method similar to Example 52 to provide the title compound. Mass spectrum (electric spray) m/z=365 (M+1); 1H NMR (CD3OD-CDCl3): 8.04 (m, 1H), 7.85 (m, 1H), 7.05 (m, 3H), 6.88 (m, 1H), 4.69 (m, 1H), 3.37 (m, 2H), 3.31 (s, 2H), 2.84 (s, 3H), 2.34 (m, 2H), 2.20 (m, 2H).

reactant | 2-fluoro-3-(1-methyl-piperidin-4-yloxy)-phenylamine | 0.126 g | FC1=C(C=CC=C1OC1CCN(CC1)C)N | C12H17FN2O
reactant | 2,4-difluorobenzoyl chloride | 0.119 g | FC1=C(C(=O)Cl)C=CC(=C1)F | C7H3ClF2O
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 2,4-Difluoro-N-[2-fluoro-3-(1-methyl-piperidin-4-yloxy)phenyl]-benzamide hydrochloride | 0.164 g | Cl.FC1=C(C(=O)NC2=C(C(=CC=C2)OC2CCN(CC2)C)F)C=CC(=C1)F | InChI=1S/C19H19F3N2O2.ClH/c1-24-9-7-13(8-10-24)26-17-4-2-3-16(18(17)22)23-19(25)14-6-5-12(20)11-15(14)21;/h2-6,11,13H,7-10H2,1H3,(H,23,25);1H
